US06713474B2
b) 2-Nitro-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl Phenyl Ether
The title compound was prepared in a 56% from 4-bromo-2-nitro-1-phenoxybenzene in a similar manner to that described for the preparation 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 8.19(d, 1H), 7.91(d, 1H), 7.46(t, 2H), 7.27(t, 1H), 7.14(d, 2H), 7.06(d, 1H), 1.31(s, 12H); RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 14.02 min.

reactant | 4-bromo-2-nitro-1-phenoxybenzene | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C12H8BrNO3
reactant | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H20BNO3
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | 2-Nitro-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl Phenyl Ether | C1(=CC=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C18H20BNO5
